US09388185B2
2-(3,5-Dimethoxyphenethyl)-6-(2-(piperazin-1-yl)pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedure analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine (from Aldrich). LCMS calculated for C25H29N6O2 (M+H)+: m/z=445.2. Found 445.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine | CC1(OB(OC1(C)C)C1=CC(=NC=C1)N1CCNCC1)C | C15H24BN3O2
product | 2-(3,5-Dimethoxyphenethyl)-6-(2-(piperazin-1-yl)pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=NC=C3)N3CCNCC3)C=C(C1)OC | C25H28N6O2
